US03988358
A mixture of 17.2 mmoles of iodobenzene, 21.2 moles of n-butanol, 19 mmoles tri-n-butylamine and 0.25 mmoles palladium acetate was stirred magnetically under one atmosphere of carbon monoxide at 100° under gas absorption stopped (about 20 hours). After cooling the ester was extracted from the reaction mixture with ether and the excess amine and amine salt were removed by washing the extract with aqueous hydrochloric acid. After drying and distilling there was obtained a 70% yield of n-butyl benzoate, b.p. 100°-110° (10 mm.).

reactant | iodobenzene | 17.2 mmoles | IC1=CC=CC=C1 | C6H5I
reactant | n-butanol | 21.2 moles | C(CCC)O | C4H10O
reactant | tri-n-butylamine | 19 mmoles | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.25 mmoles | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | n-butyl benzoate | 70% yield | C(C1=CC=CC=C1)(=O)OCCCC | C11H14O2
